US05292767
To a stirred solution of trans-4-cyano-5-hydroxymethyltetrahydrothiophene (78 mg) and triphenylphosphine (283 mg) in THF (3 ml), diethylazodicarboxylate (188 mg) dissolved in THF (1.2 ml) and thioacetic acid (82 mg) dissolved in THF (1.2 ml) were added dropwise under ice-cooling and the mixture was stirred for 30 minutes. Saturated aqueous sodium bicarbonate solution was added to the mixture and extracted with diethylether. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 94 mg (86%) of trans-5-acetylthiomethyl-4-cyanotetrahydrothiophene.

reactant | trans-4-cyano-5-hydroxymethyltetrahydrothiophene | 78 mg | C(#N)[C@@H]1CCS[C@H]1CO | C6H9NOS
reactant | triphenylphosphine | 283 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 188 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 82 mg | C(C)(=S)O | C2H4OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
product | trans-5-acetylthiomethyl-4-cyanotetrahydrothiophene | 94 mg, 86% | C(C)(=O)SC[C@H]1[C@@H](CCS1)C#N | C8H11NOS2
